US07947685B2
Step 1: 3-(Pyridin-3-ylamino)-pyrazine-2-carboxylic acid methyl ester
3-Aminopyrazine-2-carboxylic acid methyl ester (0.8 g, 5.2 mmol) and 3-bromopyridine (1.2 g, 7.8 mmol) were dissolved in 20 mL dry toluene. 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (0.6 g, 1.04 mmol), sodium tert.-butylate (0.75 g, 7.8 mmol) and tri(dibenzylideneacetone)dipalladium chloroform complex (0.54 g, 0.52 mmol) were added and the reaction mixture was stirred under microwave irradiation for 60 minutes at 150° C. The reaction mixture was then evaporated and purified by flash chromatography on silica gel (heptane/ethyl acetate 1:2->0:100 gradient). The desired product was obtained as a brown solid (260 mg, 22%), MS: m/e=231.1 (M+H+).

reactant | 3-Aminopyrazine-2-carboxylic acid methyl ester | 5.2 mmol, 0.8 g | COC(=O)C1=NC=CN=C1N | C6H7N3O2
reactant | 3-bromopyridine | 7.8 mmol, 1.2 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 1.04 mmol, 0.6 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(Pyridin-3-ylamino)-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=CN=C1NC=1C=NC=CC1 | C11H10N4O2
